US08378104B2
Step C: 7-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine
A solution of 3-bromo-7-fluorothieno[2,3-c]pyridine (33 mg, 0.14 mmol), bis(pinacolato)diboron (54.2 mg, 0.213 mmol), potassium acetate (27.9 mg, 0.284 mmol), and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (5.8 mg, 0.0071 mmol) in 1,4-dioxane (0.71 mL) was heated to 85° C. for 18 h. The reaction mixture was then diluted with dichloromethane (40 mL), filtered through a pad of Celite, and concentrated. The residue was purified by ISCO chromatography (5 to 100% ethyl acetate:hexanes) to afford 40 mg (87%) of the title compound as a light yellow oil. 1H NMR (400 MHz, CDCl3): δ 8.32 (d, J=0.5 Hz, 1 H), 8.03-8.14 (m, 2 H), 1.39 (m, 12 H); MS (ESI): 280.18 [M+H]+; HPLC tR=3.54 min (TOF, polar—3 min).

reactant | 3-bromo-7-fluorothieno[2,3-c]pyridine | 0.14 mmol, 33 mg | BrC1=CSC2=C(N=CC=C21)F | C7H3BrFNS
reactant | bis(pinacolato)diboron | 0.213 mmol, 54.2 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.284 mmol, 27.9 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 0.71 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 7-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine | 40 mg, 87% | FC=1N=CC=C2C1SC=C2B2OC(C(O2)(C)C)(C)C | C13H15BFNO2S
